US07417169B2
A mixture of 4-bromo-2-isopropylphenyl trifluoromethanesulfonate (0.705 g), palladium acetate (0.0228 g), 1,3-bis-(diphenylphosphino)propane (0.0419 g) and triethylamine (0.628 mL) in methanol (6 mL)/dimethylsulfoxide (9 mL) was stirred at 55° C. overnight under an atmosphere of carbon monoxide. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: diethyl ether/n-hexane=1/10) to afford methyl 4-bromo-2-isopropylbenzoate (0.355 g).

reactant | 4-bromo-2-isopropylphenyl trifluoromethanesulfonate | 0.705 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)Br)C(C)C)(F)F | C10H10BrF3O3S
reactant | 1,3-bis-(diphenylphosphino)propane | 0.0419 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 0.628 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 9 mL | CS(=O)C | C2H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 6 mL | CO | CH4O
catalyst | palladium acetate | 0.0228 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | methyl 4-bromo-2-isopropylbenzoate | 0.355 g | BrC1=CC(=C(C(=O)OC)C=C1)C(C)C | C11H13BrO2
